US05707931
6-Chloro-4-(2,2-dimethoxyethylamino)-3-isobutyryl-8-trifluoromethyl-2-quinolinone (10)
6-Chloro-3-isobutyryl-4-methylsulfoxy-8-trifluoromethyl-2-quinolinone (379 mg, 1 mmol) and 2,2-dimethoxyethylamine (105 mg, 1 mmol) were used and the reaction was carried out as in the above process of example 1 to obtain the desired product (307 mg, yield: 73%).

reactant | 6-Chloro-3-isobutyryl-4-methylsulfoxy-8-trifluoromethyl-2-quinolinone | 1 mmol, 379 mg | ClC=1C(=C2C(=C(C(NC2=C(C1)C(F)(F)F)=O)C(C(C)C)=O)C)OS(=O)(=O)O | C15H13ClF3NO6S
reactant | 2,2-dimethoxyethylamine | 1 mmol, 105 mg | COC(CN)OC | C4H11NO2
product | 6-Chloro-4-(2,2-dimethoxyethylamino)-3-isobutyryl-8-trifluoromethyl-2-quinolinone | 307 mg, yield: 73% | ClC=1C=C2C(=C(C(NC2=C(C1)C(F)(F)F)=O)C(C(C)C)=O)NCC(OC)OC | C18H20ClF3N2O4
